US07538112B2
Step 6: Ethyl 8-(benzyloxy)-6-bromo-2-methyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate
To a mixture of ethyl 8-(benzyloxy)-2-methyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate (5.0 g, 15.2 mmol) and sodium bicarbonate (19.2 g, 228 mmol) in dichloromethane (150 mL) at 0° C., a solution of bromine in dichloromethane (0.5 M, 32 mL, 16 mmol) was added dropwise. The reaction mixture was stirred at room temperature for 2 hours, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluted with a hexane-ethyl acetate gradient to provide the titled product.

reactant | ethyl 8-(benzyloxy)-2-methyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate | 15.2 mmol, 5.0 g | C(C1=CC=CC=C1)OC=1C(=CN2C1C(N(CC2)C)=O)C(=O)OCC | C18H20N2O4
reactant | sodium bicarbonate | 228 mmol, 19.2 g | C([O-])(O)=O.[Na+]
reactant | bromine | BrBr | Br2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 16 mmol, 0.5 M, 32 mL | ClCCl | CH2Cl2
product | Ethyl 8-(benzyloxy)-6-bromo-2-methyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate | C(C1=CC=CC=C1)OC=1C(=C(N2C1C(N(CC2)C)=O)Br)C(=O)OCC | C18H19BrN2O4
